US03983133
To a stirred solution of 10.7 parts of (±)-2,3,5,6-tetrahydro-5-phenyl-1H-imidazo[1,2-a]imidazole in 20 parts of methanol is added a warm solution of 8.6 parts of (+)-tartaric acid in 20 parts of methanol. The whole is diluted with 80 parts of acetone and the product is allowed to crystallize. The precipitated fraction is filtered off [about 5.6 parts of crude (+)-2,3,5,6-tetrahydro-5-phenyl-1H-imidazo[1,2-a]-imidazole (+)-tartrate - α(1% MeOH): +87.3°] and set aside. The filtrate is evaporated in vacuo. The residue is dissolved in water and the free base is liberated. It is extracted with chloroform and the latter is dried and evaporated. The residue is dissolved in 28 parts of methanol and to this solution is added a warm solution of 5.7 parts of (-)-tartaric acid in 60 parts of methanol. The product is allowed to crystallize. It is filtered off and recrystallized from a mixture of 8 parts of methanol and 16 parts of acetone till a constant rotation, yielding about 4.3 parts of (-)-2,3,5,6-tetrahydro-5-phenyl-1H-imidazo[1,2-a]imidazole (-)-tartrate; α(1% MeOH): -89.97°. A sample of 4.2 parts of (-)-2,3,5,6-tetrahydro-5-phenyl-1H-imidazo[1,2-a]imidazole (-)-tartrate is dissolved in water and the free base is liberated. After extraction with chloroform, the latter is dried and evaporated. The residue is crystallized from acetone, yielding about 0.7 parts of (-)-2,3,5,6-tetrahydro-5-phenyl-1H-imidazo[1,2-a]-imidazole; m.p. 153.2°C.; α(1% MeOH): -211.49°. The free base together with the residue of the evaporated mother-liquor is converted into the hydrochloride salt yielding about 1.9 parts of (-)-2,3,5,6-tetrahydro-5-phenyl-1H-imidazo[ 1,2-a]-imidazole hydrochloride; m.p. 277.1°C.; α(1% MeOH): -115.79°.

reactant | MeOH | CO | CH4O
reactant | (-)-2,3,5,6-tetrahydro-5-phenyl-1H-imidazo[1,2-a]imidazole (-)-tartrate | C(=O)(O)C(O)C(O)C(=O)O.C1(=CC=CC=C1)C1CN=C2N1CCN2
solvent | water | O | H2O
product | (-)-2,3,5,6-tetrahydro-5-phenyl-1H-imidazo[1,2-a]-imidazole | C1(=CC=CC=C1)C1CN=C2N1CCN2 | C11H13N3
